US07557103B2
F. (S)-8-(1-Ethyl-propyl)-3-[7-(1-methoxy-ethyl)-2-methyl-benzofuran-3-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazine
A solution of (S)-1-{3-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-benzofuran-7-yl}-ethanol (0.19 g, 0.50 mmol) in THF (5 mL) is cooled to 0° C., treated with 60% NaH (23 mg, 0.56 mmol). The mixture is stirred at 0° C. for 30 min. CH3I (47 uL, 0.76 mmol) is added and the resulting mixture is stirred at 0° C. for 1 h and gradually warmed to rt. and stirred at rt overnight. The excess reagent is removed in vacuo. The residue is taked up with H2O (20 mL) and EtOAc (50 mL). It is washed with sat. NH4Cl (2×30 mL). The organic lay is dried with Na2SO4, filtered and concentrated. Purification of the crude material by chromatography gives the title compound (0.17 g, 0.41 mmol, 82%). 1H NMR (CDCl3): δ. 0.90 (t, J=7.5 Hz, 3H), 0.90 (t, J=7.5 Hz, 3H), 1.63 (d, J=4.0 Hz, 1.5H), 1.64 (d, J=4.0 Hz, 1.5H), 1.78-1.92 (m, 4H), 2.44 (s, 3H), 2.46 (s, 3H), 2.48 (s, 3H), 3.34-3.42 (m, 1H), 4.90-4.98 (m, 1H), 6.68 (s, 1H), 7.17-7.19 (m, 1H), 7.26-7.29 (m, 2H) ppm. ES-MS (m/z): calcd for C25H31N3O2 (M+H)+: 406.5. found: 406.2.

reactant | (S)-1-{3-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-benzofuran-7-yl}-ethanol | 0.50 mmol, 0.19 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(OC1=C2C=CC=C1[C@H](C)O)C | C24H29N3O2
reactant | NaH | 0.56 mmol, 23 mg | [H-].[Na+]
reactant | CH3I | 0.76 mmol, 47 uL | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-8-(1-Ethyl-propyl)-3-[7-(1-methoxy-ethyl)-2-methyl-benzofuran-3-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.41 mmol, 0.17 g, 82% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(OC1=C2C=CC=C1[C@H](C)OC)C | C25H31N3O2
